US05030629
Preparation of 1-(4-Hydroxybutyl)-2-undecyl-2-imidazoline
8 g (60.6 mmoles) of 4-(2-aminoethylamino)butanol and 12.5 g of ethyl dodecanoate were treated as under Example 25. The resulting 10.8 g of an oil (66.7%) was dissolved in 100 ml of hexane and kept in the freezer to give 8.8 g of pure product, m.p. 58°-60° C.

reactant | 4-(2-aminoethylamino)butanol | 60.6 mmoles, 8 g | NCCNCCCCO | C6H16N2O
reactant | ethyl dodecanoate | 12.5 g | C(CCCCCCCCCCC)(=O)OCC | C14H28O2
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 1-(4-Hydroxybutyl)-2-undecyl-2-imidazoline | 8.8 g | OCCCCN1C(=NCC1)CCCCCCCCCCC | C18H36N2O
